US04223142
(b) 5-Cyano-6-formyl-2-[[3-(trifluormethyl)phenyl]amino]-3-pyridine-carboxylic acid, ethyl ester
69.8 g of 5-cyano-6-methyl-2-[[3-(trifluormethyl)phenyl]amino]-3-pyridine-carboxylic acid, ethyl ester (0.2 mol) are dissolved in 400 ml of diethyleneglycoldimethyl ether. After addition of 24.2 g of selenium dioxide, the mixture is heated at 160° with stirring for 2 hrs. The selenium is filtered off and the filtrate evaporated. The resulting yellow title compound is recrystallized from butanol. Yield 56 g (77%); m.p. 183°-185° C.

reactant | 5-cyano-6-methyl-2-[[3-(trifluormethyl)phenyl]amino]-3-pyridine-carboxylic acid, ethyl ester | 0.2 mol, 69.8 g | C(#N)C=1C=C(C(=NC1C)NC1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C17H14F3N3O2
reactant | selenium dioxide | 24.2 g | [Se](=O)=O | O2Se
solvent | ether | CCOCC | C4H10O
product | 5-Cyano-6-formyl-2-[[3-(trifluormethyl)phenyl]amino]-3-pyridine-carboxylic acid, ethyl ester | C(#N)C=1C=C(C(=NC1C=O)NC1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C17H12F3N3O3
